US06180622B2
A 0.99 M ethylmagnesium bromide/THF solution (15.2 ml) is diluted with 60 ml of anhydrous THF. A solution of 3.046 g of 5-bromoimidazo[5,1-b]thiazole in 60 ml of anhydrous THF is added dropwise to the diluted solution in an argon atmosphere over a period of 15 min (4 to 8° C.), and the mixture is stirred in this state for 5 min. The mixture is then cooled to −3° C. over a period of 10 min. Thereafter, a solution of 4.702 g of (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-formylpyrrolidine in 60 ml of anhydrous THF is added dropwise thereto over a period of 20 min (−3 to −1° C.). The mixture is stirred in this state at −1 to +1° C. for 80 min. An aqueous semi-saturated ammonium chloride solution (180 ml) is added thereto, and the mixture is extracted twice with 360 ml of ethyl acetate. The organic layer is dried over magnesium sulfate and filtered, and the solvent is removed by evaporation under reduced pressure to give a yellow oil which is then purified by flash column chromatography on silica gel (n-hexane:ethyl acetate=1:1 to 1:2) to give 4.934 g of 3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-5-yl)methyl]pyrrolidine (stereoisomer A, a high polar component) as a colorless amorphous material and 605.5 mg of (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-5-yl)methyl]pyrrolidine(stereoisomer B, a low polar component) as a slightly yellow, high viscous material.

reactant | ethylmagnesium bromide THF | 0.99 M, 15.2 ml | C(C)[Mg]Br.C1CCOC1
reactant | 5-bromoimidazo[5,1-b]thiazole | 3.046 g | BrC1=NC=C2SC=CN21 | C5H3BrN2S
reactant | (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-formylpyrrolidine | 4.702 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C=O)O[Si](C)(C)C(C)(C)C | C15H27NO4Si
reactant | ammonium chloride | 180 ml | [Cl-].[NH4+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-5-yl)methyl]pyrrolidine | C(C=C)OC(=O)N1CC(CC1C(C1=NC=C2SC=CN21)O)O[Si](C)(C)C(C)(C)C | C20H31N3O4SSi
